US07335658B2
6-[4-(2,2,3,3-TETRAMETHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2,2,3,3-tetramethylcyclopropyl)methanone, the title compound was obtained as a white solid (35% yield). 1H NMR (400 MHz, CDCl3) δ 8.07, 8.01, 7.01, 3.91-3.89, 3.81-3.65, 3.57, 1.21, 1.19, 0.79-0.072, 0.49-0.46, 0.11-0.10. MS (ES+) m/z 400 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | piperazin-1-yl-(2,2,3,3-tetramethylcyclopropyl)methanone | N1(CCNCC1)C(=O)C1C(C1(C)C)(C)C | C12H22N2O
product | 6-[4-(2,2,3,3-TETRAMETHYLCYCLOPROPANECARBONYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1C(C1(C)C)(C)C | C22H33N5O2
